US08431607B2
(S)-3-[5-(4-Chloro-phenoxy)-pyrazin-2-yl]-4-(3-trifluoromethyl-phenyl)-oxazolidin-2-one is prepared from 4-(3-trifluoromethyl-phenyl)-oxazolidin-2-one and 2-bromo-5-(4-chloro-phenoxy)-pyrazine using the same conditions as example 4. 1H NMR (CDCl3, 400 MHz) δ 8.98 (d, 1H), 7.95 (d, 1H), 7.47˜7.62 (m, 4H), 7.34 (d, 2H), 7.04 (d, 2H), 5.82 (dd, 1H), 4.88 (t, 1H), 4.35 (dd, 1H); HPLC-MS calculated for C20H13ClF3N3O3 (M+H+) 436.1, found 436.1.

reactant | 4-(3-trifluoromethyl-phenyl)-oxazolidin-2-one | FC(C=1C=C(C=CC1)C1NC(OC1)=O)(F)F | C10H8F3NO2
reactant | 2-bromo-5-(4-chloro-phenoxy)-pyrazine | BrC1=NC=C(N=C1)OC1=CC=C(C=C1)Cl | C10H6BrClN2O
product | (S)-3-[5-(4-Chloro-phenoxy)-pyrazin-2-yl]-4-(3-trifluoromethyl-phenyl)-oxazolidin-2-one | ClC1=CC=C(OC=2N=CC(=NC2)N2C(OC[C@@H]2C2=CC(=CC=C2)C(F)(F)F)=O)C=C1 | C20H13ClF3N3O3
